US04218375
A mixture of 4 g of 4H-thieno-[3,2-b][1]-benzazepine, 80 ml of xylene and 2.4 g of sodium hydride as a 50% suspension in oil was stirred under nitrogen and was then refluxed for an hour. Then, 12 ml of 2-(3-chloropropoxy)-tetrahydropyran were added thereto and the mixture was refluxed for 3 more hours and was then cooled. The mixture was poured into 400 g of ice and was extracted with ethyl acetate. The organic extracts were washed with water, dried over magnesium sulfate and were evaporated to dryness under reduced pressure. The residue was dissolved in 80 ml of ethanol and 4 ml of 6 N hydrochloric acid were added to the solution. After 4 hours at room temperature, the mixture was poured over 400 g of ice and the aqueous phase was decanted and extracted with methylene chloride. The organic extracts were washed with water, dried over magnesium sulfate and were evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and was eluted with a 7-3 benzene-ethyl acetate mixture to obtain 4.2 g of 4-(3-hydroxypropyl)-4H-thieno-[3,2-b][1]-benzazepine in the form of an oil.

reactant | 4H-thieno-[3,2-b][1]-benzazepine | 4 g | S1C=CC=2NC3=C(C=CC21)C=CC=C3 | C12H9NS
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | 2-(3-chloropropoxy)-tetrahydropyran | 12 ml | ClCCCOC1OCCCC1 | C8H15ClO2
solvent | xylene | 80 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-(3-hydroxypropyl)-4H-thieno-[3,2-b][1]-benzazepine | 4.2 g | OCCCN1C2=C(C=CC3=C1C=CC=C3)SC=C2 | C15H15NOS
